US20010023305A1
Preparation of 1-(3-Chloropropyl)-4-Methylhomopiperizine
A round-bottom, 250 milliliter, three-necked flask was equipped with a mechanical stirrer, a Claisen adapter, equipped with a thermocouple and a dry-ice condenser with a gas inlet, and a pressure-equalizing dropping funnel. This apparatus was baked in an oven overnight at 125° C., assembled hot, and purged with argon until cool. The reaction flask was charged with 1-bromo-3-chloropropane 15.75 grams, (0.10 moles, 1 equivalent) and cyclohexane 8.68 grams, (0.10 moles, 1 equivalent). The reaction mixture was stirred with a magnetic stir bar. 1-Methylhomopiperizine 22.64 grams, (0.20 moles, 2 equivalents) was added dropwise via the addition funnel over a period of thirty-three minutes. A hexane/dry ice cooling bath was applied as needed to maintain a reaction temperature no greater than 35° C. After addition was complete, samples of the reaction mixture were removed periodically, washed with saturated sodium bicarbonate solution, and assayed for unreacted 1-bromo-3-chloropropane by gas chromatography (GLC). The reaction was allowed to stir until 1-bromo-3-chloro-propane was consumed. Next, 75 milliliters of saturated sodium bicarbonate solution and 25 milliliters of distilled water were added to the reaction flask. The reaction mixture was then transferred to a separatory funnel (homogeneous mixture). The mixture was extracted 2×75 milliliters with ethyl ether. The resulting organic layer was then dried with magnesium sulfate, filtered, and concentrated on a rotary evaporator, to afford a slightly hazy solution with a yield=42%; (GC assay=98.3%).

reactant | 1-bromo-3-chloropropane | 0.10 moles, 15.75 grams, 1 equivalent | BrCCCCl | C3H6BrCl
reactant | cyclohexane | 0.10 moles, 8.68 grams, 1 equivalent | C1CCCCC1 | C6H12
reactant | 1-Methylhomopiperizine | 0.20 moles, 22.64 grams, 2 equivalents | CN1CCNCCC1 | C6H14N2
product | 1-(3-Chloropropyl)-4-Methylhomopiperizine | yield=42% | ClCCCN1CCN(CCC1)C | C9H19ClN2
